US04353919
(b) 5-Methoxy-2(3H)-benzothiazolone
7.0 gm (0.0314 mol) of 3-acetyl-5-methoxy-2(3H)-benzothiazolone were suspended in a mixture of 210 ml of 5 N hydrochloric acid and 70 ml of ethanol, and the suspension was refluxed for one hour. The still hot mixture was filtered, diluted with 200 ml of water and brought to a temperature of 5° C. by external cooling with ice. After standing for 2 hours, the precipitate was filtered off, and the dried product was purified chromatographically on silica gel, using 1,2-dichloroethane-acetone (volume ratio 9:1) for elution, and finally recrystallized from methanol and from 1,2-dichloro-ethane, each time in the presence of activated charcoal. The slightly yellow crystals obtained with a yield of 3.25 gm (57% of theory) melted at 168°-170° C.

reactant | 3-acetyl-5-methoxy-2(3H)-benzothiazolone | 0.0314 mol, 7.0 gm | C(C)(=O)N1C(SC2=C1C=C(C=C2)OC)=O | C10H9NO3S
solvent | hydrochloric acid | 5 N, 210 ml | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 5-Methoxy-2(3H)-benzothiazolone | COC=1C=CC2=C(NC(S2)=O)C1 | C8H7NO2S
